datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][O:32],7.397312
[C:1](=[C:2]=[C:3]([C:4]([c:5]1[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]1[H:17])([H:18])[H:19])[H:20])([H:21])[H:22]>>[C:1](#[C:2][C:3]([C:4]1([H:19])[C:5](=[C:15]([H:17])[H:18])[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])=[C:13]1[H:14])([H:20])[H:21])[H:22],211.840104
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])=[C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:12],128.114
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([C:10]([O:11][O:12])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:12][O:11][C:10]([C:9]([C:8]([C:7]([H:13])([H:14])[H:15])([H:16])[H:17])([H:18])[H:19])([H:20])[H:21],56.9024
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]=[O:13])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:14])([H:15])[H:16])=[O:13],183.482
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23])([H:5])[H:6],-1.54808
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[S:8]=[C:9]([C:10]([S:11][H:14])[H:13])[H:12]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:10]([C:9](=[S:8])[H:12])([S:11][H:14])[H:13],131.796
[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[C:7](=[O:8])[H:9]>>[C-:7]#[O+:8].[C:0]([O:1][C:2](=[O:3])[H:9])([H:4])([H:5])[H:6],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:18]([C:17]([H:21])([H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:9])([H:7])[H:8],1.50624
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:29])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25],85.47912
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](#[C:19][C:20]([H:22])[H:23])[H:21]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:20]([C:19]#[C:18][H:21])([H:22])[H:23])[H:11])[H:10],37.656
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18][O:19])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:19][O:18][C:17]([H:20])([H:21])[H:22],61.96504
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:9])[H:15])([H:6])([H:7])[H:8].[C:4](=[C:5]([H:16])[H:17])([H:13])[H:14],238.0
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])([H:23])([H:24])[H:25]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:15]([C:14]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])([H:6])[H:7],47.7813
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([O:13][H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[O:13][C:12]([H:14])([H:15])[H:16])([H:4])([H:5])[H:17],175.31
